US05703273
A solution of paraformaldehyde (4 g, 0.13 mol), ethanolamine (48.8 g, 0.8 mmol) and triisopropylphosphite (20.8 g, 0.1 mmol) was stirred at 100° C. for 16 hours. The reaction was allowed to cool to room temperature and 8 ml of 50% w/w sodium hydroxide and 100 ml of isopropanol were added. The mixture was heated to reflux for 48 h. The solution was concentrated under vacuum and 25 ml of distilled water was added to homogenize the mixture. The reaction was analyzed by 31P-NMR in D2O at pH=0.7. N-(2-Hydroxylethyl)aminomethylphosphonic acid was obtained in 80% yield.

reactant | paraformaldehyde | 0.13 mol, 4 g | C=O | CH2O
reactant | ethanolamine | 0.8 mmol, 48.8 g | C(O)CN | C2H7NO
reactant | triisopropylphosphite | 0.1 mmol, 20.8 g | C(C)(C)OP(OC(C)C)OC(C)C | C9H21O3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | N-(2-Hydroxylethyl)aminomethylphosphonic acid | 80% yield | OCCNCP(O)(O)=O | C3H10NO4P
